US04007176
The sodium salt of 3 -acetoxymethyl-2-carboxy-7-[(5,6-dihydro-1,4-dithiin-2-yl )acetamido]-8-oxo-5-thia-1-aza-bicyclo [4,2,0]oct-2-ene (10 g.) is dissolved in distilled water (200 cc.). Sodium bicarbonate (2.25 g.) followed by 2-methyl-5-thioxo-1,3,4-thiadiazoline (3.54 g.) are added to the solution and the mixture is heated with stirring at 60° C. for 16 hours. After cooling, the reaction mixture is washed with ethyl acetate (200 cc.). The pH of the mixture is brought to 6.5 by addition of 4N hydrochloric acid and then the mixture is washed again with ethyl acetate (200 cc.). The mixture is acidified to pH 2 by addition of 4N hydrochloric acid in the presence of ethyl acetate (200 cc.). After decanting the organic phase, the aqueous phase is extracted twice with ethyl acetate (total 200 cc.). The organic extracts are combined, washed three times with water (total 500 cc.), dried over sodium sulphate, treated with decolourizing charcoal, filtered and then concentrated to dryness under reduced pressure (20 mm.Hg). The solid residue obtained is taken up in diisopropyl ether (200 cc.), filtered off and then dried under reduced pressure (2 mm.Hg). 2-Carboxy-7-[(5,6-dihydro-1,4-dithiin-2-yl )acetamido]-3-[(5-methyl-1,3,4-thiadiazol-2-yl )thiomethyl]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (6 g.), melting at 170° C., is thus obtained.

reactant | sodium | [Na] | Na
reactant | 3 -acetoxymethyl-2-carboxy-7-[(5,6-dihydro-1,4-dithiin-2-yl )acetamido]-8-oxo-5-thia-1-aza-bicyclo [4,2,0]oct-2-ene | 10 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SCCSC1)=O)=O)C(=O)O | C16H18N2O6S3
reactant | Sodium bicarbonate | 2.25 g | C([O-])(O)=O.[Na+]
reactant | 2-methyl-5-thioxo-1,3,4-thiadiazoline | 3.54 g | CC=1SC(NN1)=S | C3H4N2S2
solvent | water | 200 cc | O | H2O
solvent | diisopropyl ether | 200 cc | C(C)(C)OC(C)C | C6H14O
product | 2-Carboxy-7-[(5,6-dihydro-1,4-dithiin-2-yl )acetamido]-3-[(5-methyl-1,3,4-thiadiazol-2-yl )thiomethyl]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 6 g | C(=O)(O)C=1N2C(C(C2SCC1CSC=1SC(=NN1)C)NC(CC=1SCCSC1)=O)=O | C17H18N4O4S5
